US04952580
A stirred solution of 8.1 grams (0.048 mole) of 4-chlorobenzoic acid hydrazide in 300 ml of triethyl orthoformate was heated under reflux for 16 hours. The excess triethyl orthoformate was removed by distillation and the residual solid was stirred with petroleum ether to yield 7.7 grams of 2-(4-chlorophenyl)-1,3,4-oxadiazole; m.p. 129° C. The nmr spectrum was consistent with the proposed structure.

reactant | 4-chlorobenzoic acid hydrazide | 0.048 mole, 8.1 grams | ClC1=CC=C(C(=O)NN)C=C1 | C7H7ClN2O
reactant | triethyl orthoformate | 300 ml | C(OCC)(OCC)OCC | C7H16O3
product | 2-(4-chlorophenyl)-1,3,4-oxadiazole | 7.7 grams | ClC1=CC=C(C=C1)C=1OC=NN1 | C8H5ClN2O
